US08383644B2
(S)-6,7-Dihydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester (3.3 g) and potassium carbonate (2 g) were stirred together in a flask containing 25 mL anhydrous acetone at room temperature under nitrogen atmosphere. After 15 minutes, 2-bromo-1-(4-nitro-phenyl)-ethanone (3.2 g) was added and the mixture was stirred at 60-80° C. for 6 hours. The reaction mixture was diluted with 50 mL of water and 100 mL of ethyl acetate and the layers were separated. The organic layer was washed with water three times and brine once, dried over sodium sulfate and concentrated to provide (S)-3-hydroxy-3-(4-nitro-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester (3.1 g), and was dissolved in 25 mL of 1:1 ratio of anhydrous triethylamine and dichloromethane under nitrogen atmosphere. The reaction mixture was cooled to −76 to −40° C. and methanesulfonyl chloride (1.9 g) was added dropwise to maintain internal temperature below −30 to −40° C. The reaction mixture was allowed to warm to room temperature gradually (8-10 hours) and was quenched with 1M sodium carbonate solution (10 mL) and extracted with dichloromethane three times (3×25 mL). The organic layers were washed with water, brine and dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica column chromatography and eluted with 7:3 hexanes/EtOAc to give a regioisomeric mixture of (S)-3-(4-Nitro-phenyl)-8,9-dihydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester (2.0 g). LCMS: (m/z) 469, 1H NMR (400 MHz, Acetone-d6): 8.12 (d, 1H), 7.61 (d, 1H), 7.15 (m, 1H), 6.78-6.69 (m, 1H), 5.01-511 (m, 1H), 4.94-4.87 (m, 1H), 4.91-4.81 (m, 1H), 4.64-4.49 (m, 1H), 4.43-4.29 (m, 1H), 3.65-3.58 (m, 3H), 3.18-2.99 (m, 2H), 1.53-1.40 (m, 9H).

reactant | (S)-6,7-Dihydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester | 3.3 g | COC(=O)[C@H]1N(CC2=CC(=C(C=C2C1)O)O)C(=O)OC(C)(C)C | C16H21NO6
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 25 mL | CC(=O)C | C3H6O
reactant | 2-bromo-1-(4-nitro-phenyl)-ethanone | 3.2 g | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (S)-3-hydroxy-3-(4-nitro-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester | 3.1 g | COC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@](O3)(C3=CC=C(C=C3)[N+](=O)[O-])O)C(=O)OC(C)(C)C | C24H26N2O9
